US07410981B2
2-(Methylamino)ethyl 3-chlorobenzoate hydrochloride
To a mixture of tert-butyl 2-hydroxyethyl (methyl)carbamate (1.75 g) obtained in Reference Example 1 and ethyl acetate (10 mL) were added 3-chlorobenzoyl chloride (1.92 g) and pyridine (0.97 mL). After stirring at room temperature for 1 hr., the mixture was stirred at 60° C. for 6 hrs. Ethyl acetate (80 mL) was added to the reaction mixture, and the mixture was washed with water (20 mL), a saturated aqueous sodium hydrogen carbonate solution (20 mL) and water (20 mL), and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, a 4N hydrogen chloride-ethyl acetate solution (10 mL) was added to the residue. After stirring at room temperature for 22 hrs., diethyl ether (15 mL) was added, and the precipitated solid was collected by filtration. The solid was washed twice with ethyl acetate (15 ml) and dried under reduced pressure at 60° C. to give the title compound (2.01 g) as a white solid.

reactant | 3-chlorobenzoyl chloride | 1.92 g | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
reactant | pyridine | 0.97 mL | N1=CC=CC=C1 | C5H5N
reactant | Ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-(Methylamino)ethyl 3-chlorobenzoate hydrochloride | 2.01 g | Cl.ClC=1C=C(C(=O)OCCNC)C=CC1 | InChI=1S/C10H12ClNO2.ClH/c1-12-5-6-14-10(13)8-3-2-4-9(11)7-8;/h2-4,7,12H,5-6H2,1H3;1H
